US20010027196A1
To a stirred suspension of 3.00 g (14.5 mmol) 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl-amine in 150 ml dichloromethane was added 7.56 g (29.0 mmol) 3-phenyl-2-(phenylsulfonyl)oxaziridine and stirring continued for 16 hours at room temperature. The resulting crystals were collected by filtration and washed with dichloromethane to afford 2.92 g (90%) 4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine as a white crystalline solid. EI-MS m/e (%): 223 (M+, 50), 177 (32), 160 (25), 148 (23), 118 (100), 90 (23), 63 (24).

reactant | 4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl-amine | 14.5 mmol, 3.00 g | O1C(=CC=C1)C1=NC(=NC(=C1)SC)N | C9H9N3OS
reactant | 3-phenyl-2-(phenylsulfonyl)oxaziridine | 29.0 mmol, 7.56 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-ylamine | 2.92 g, 90% | O1C(=CC=C1)C1=NC(=NC(=C1)S(=O)C)N | C9H9N3O2S
